* Extracted by KLayout with SG13G2 LVS runset on : 07/03/2026 03:50

.SUBCKT HPA VSS VINp VINn VDD VOUTn VOUTp VREF
X$2 VSS \$9 VOUTn VOUTp VDD \$9 VREF VINp VINn \$11 \$11 \$12 \$12
+ OTA_Telescopic_TOP_wp
.ENDS HPA

.SUBCKT OTA_Telescopic_TOP_wp VSS CMFBout VOUTN VOUTP VDD CMFBin VREF VP VN
+ VPout VPin VNin VNout
X$9 VSS CMFBout VOUTN VOUTP VREF VDD \$23 OTA_Telescopic_CMFB
X$10 VSS \$23 \$5 VDD OTA_Telescopic_currentRef
X$11 VPout VNout VSS VOUTN VOUTP CMFBin \$5 VP VN VNin VPin VDD
+ OTA_Telescopic_FB
.ENDS OTA_Telescopic_TOP_wp

.SUBCKT OTA_Telescopic_CMFB VSS CMFB VINP VINN VREF VDD IBIAS
M$1 CMFB CMFB VSS VSS sg13_lv_nmos L=0.2u W=29.97u AS=6.1938p AD=5.6943p
+ PS=37.02u PD=33.39u
M$10 VSS \$5 \$5 VSS sg13_lv_nmos L=0.2u W=29.97u AS=5.6943p AD=6.1938p
+ PS=33.39u PD=37.02u
M$19 \$5 VREF \$39 VDD sg13_lv_pmos L=0.35u W=35.98u AS=7.2217p AD=6.8362p
+ PS=49.79u PD=46.62u
M$33 \$5 VREF \$61 VDD sg13_lv_pmos L=0.35u W=35.98u AS=6.8362p AD=7.2217p
+ PS=46.62u PD=49.79u
M$47 CMFB VINP \$39 VDD sg13_lv_pmos L=0.35u W=35.98u AS=7.2217p AD=6.8362p
+ PS=49.79u PD=46.62u
M$61 CMFB VINN \$61 VDD sg13_lv_pmos L=0.35u W=35.98u AS=6.8362p AD=7.2217p
+ PS=46.62u PD=49.79u
M$75 VDD IBIAS \$39 VDD sg13_lv_pmos L=0.7u W=144u AS=28.26p AD=27.36p
+ PS=206.52u PD=198.72u
M$99 VDD IBIAS \$61 VDD sg13_lv_pmos L=0.7u W=144u AS=27.36p AD=28.26p
+ PS=198.72u PD=206.52u
M$419 VDD IBIAS IBIAS VDD sg13_lv_pmos L=0.7u W=48u AS=9.27p AD=9.27p PS=67.54u
+ PD=67.54u
.ENDS OTA_Telescopic_CMFB

.SUBCKT OTA_Telescopic_currentRef VSS I_N I_P VDD
M$1 \$2 \$18 \$5 VSS sg13_lv_nmos L=6.4u W=96u AS=21.84p AD=21.84p PS=127.28u
+ PD=127.28u
M$17 VSS \$18 \$18 VSS sg13_lv_nmos L=6.4u W=12u AS=3.18p AD=3.18p PS=19.06u
+ PD=19.06u
M$19 VDD \$5 \$18 VDD sg13_lv_pmos L=2.5u W=12u AS=3.18p AD=2.28p PS=19.06u
+ PD=12.76u
M$21 VDD \$5 \$5 VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=2.28p PS=12.76u
+ PD=12.76u
M$23 VDD \$5 I_P VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=3.18p PS=12.76u
+ PD=19.06u
R$25 VSS \$2 rppd w=1u l=11.5u ps=0 b=0 m=1
M$26 \$18 \$5 \$5 VSS sg13_lv_nmos L=1u W=2u AS=0.68p AD=0.68p PS=4.68u PD=4.68u
M$27 VSS \$18 I_N VSS sg13_lv_nmos L=6.5u W=12.5u AS=3.3125p AD=3.3125p
+ PS=19.81u PD=19.81u
.ENDS OTA_Telescopic_currentRef

.SUBCKT OTA_Telescopic_FB VPout VNout VSS VOUTN VOUTP CMFBin IB VP VN VNin VPin
+ VDD
X$16 VSS IB CMFBin VPin VNin VDD VOUTN VOUTP OTA_Telescopic_core
R$1 VP VPout rppd w=0.6u l=6.73u ps=0 b=0 m=1
R$2 VPout VOUTP rppd w=0.6u l=15.4u ps=0 b=0 m=1
R$3 VNout VOUTN rppd w=0.6u l=15.4u ps=0 b=0 m=1
R$4 VN VNout rppd w=0.6u l=6.73u ps=0 b=0 m=1
.ENDS OTA_Telescopic_FB

.SUBCKT OTA_Telescopic_core VSS IB CMFB VINP VINN VDD VOUTP VOUTN
M$1 \$18 \$18 VDD VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.697p AD=0.3895p
+ PS=4.78u PD=2.43u
M$2 VDD \$18 \$9 VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.3895p AD=0.697p PS=2.43u
+ PD=4.78u
M$3 \$25 IB VSS VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=0.912p PS=10.28u
+ PD=5.18u
M$4 VSS IB \$18 VSS sg13_lv_nmos L=1.06u W=4.8u AS=0.912p AD=1.632p PS=5.18u
+ PD=10.28u
M$5 VSS IB IB VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=1.632p PS=10.28u
+ PD=10.28u
M$6 VDD \$25 \$25 VDD sg13_lv_pmos L=0.35u W=11.2u AS=2.548p AD=2.548p
+ PS=17.64u PD=17.64u
C$14 \$46 VOUTN cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
C$15 \$47 VOUTP cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
R$16 \$41 \$46 rppd w=1.5u l=0.55u ps=0 b=0 m=1
R$17 \$40 \$47 rppd w=1.5u l=0.55u ps=0 b=0 m=1
M$18 VOUTP IB VSS VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p AD=53.76p PS=310.4u
+ PD=310.4u
M$73 VOUTN IB VSS VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p AD=53.76p PS=310.4u
+ PD=310.4u
M$128 \$I159 \$9 \$41 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$158 VDD \$41 VOUTN VDD sg13_lv_pmos L=0.35u W=342.5u AS=70.2125p AD=70.2125p
+ PS=479.25u PD=479.25u
M$408 \$I161 \$18 \$41 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p AD=26.1225p
+ PS=154.65u PD=154.65u
M$438 VDD \$25 \$I161 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p
+ PS=257.9u PD=257.9u
M$468 \$19 VINN \$I159 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p
+ PS=51.4u PD=51.4u
M$498 VSS \$9 \$9 VSS sg13_lv_nmos L=0.8u W=0.5u AS=0.17p AD=0.17p PS=1.68u
+ PD=1.68u
M$499 VDD \$40 VOUTP VDD sg13_lv_pmos L=0.35u W=342.5u AS=70.2125p AD=70.2125p
+ PS=479.25u PD=479.25u
M$749 \$I104 \$18 \$40 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p AD=26.1225p
+ PS=154.65u PD=154.65u
M$779 VDD \$25 \$I104 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p
+ PS=257.9u PD=257.9u
M$809 \$I7 \$9 \$40 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$839 \$19 VINP \$I7 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p
+ PS=51.4u PD=51.4u
M$869 \$19 CMFB VSS VSS sg13_lv_nmos L=0.2u W=179.82u AS=34.6653p AD=34.6653p
+ PS=203.97u PD=203.97u
.ENDS OTA_Telescopic_core
